US04250183
Ethyl p-anisidinoacetate is dissolved in an inert solvent (benzene) and is mixed with an equivalent quantity of p-chlorobenzoyl chloride in the presence of an equivalent quantity of pyridine. The resultant ethyl N-(p-chlorobenzoyl)-p-anisidinoacetate is saponified with alcoholic potash to produce N-(p-chlorobenzoyl)-p-anisidinoacetic acid, melting point: 195° to 197°.

reactant | Ethyl p-anisidinoacetate | COC1=CC=C(C=C1)NCC(=O)OCC | C11H15NO3
reactant | p-chlorobenzoyl chloride | ClC1=CC=C(C(=O)Cl)C=C1 | C7H4Cl2O
reactant | ethyl N-(p-chlorobenzoyl)-p-anisidinoacetate | ClC1=CC=C(C(=O)N(C2=CC=C(OC)C=C2)CC(=O)OCC)C=C1 | C18H18ClNO4
reactant | potash | C(=O)([O-])[O-].[K+].[K+]
solvent | pyridine | N1=CC=CC=C1 | C5H5N
solvent | benzene | C1=CC=CC=C1 | C6H6
product | N-(p-chlorobenzoyl)-p-anisidinoacetic acid | ClC1=CC=C(C(=O)N(C2=CC=C(OC)C=C2)CC(=O)O)C=C1 | C16H14ClNO4
